US07893056B2
Phenylmethyl (3S)-3-{[(methyloxy)carbonyl]amino}-1-pyrrolidinecarboxylate (2.00 g, 7.19 mmol) was dissolved in degassed methanol (20 mL) and Pd/C (0.4 g, 0.376 mmol) was added. The reaction vessel was evacuated and back-filled with hydrogen via a balloon. The reaction was stirred for 2 h after which time the catalyst was removed by filtration through Celite. Evaporation of the solvent yielded methyl (3S)-3-pyrrolidinylcarbamate (0.99 g, 76%) as a clear oil.

reactant | Phenylmethyl (3S)-3-{[(methyloxy)carbonyl]amino}-1-pyrrolidinecarboxylate | 7.19 mmol, 2.00 g | COC(=O)N[C@@H]1CN(CC1)C(=O)OCC1=CC=CC=C1 | C14H18N2O4
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 0.376 mmol, 0.4 g | [Pd] | Pd
product | methyl (3S)-3-pyrrolidinylcarbamate | 0.99 g, 76% | N1C[C@H](CC1)NC(OC)=O | C6H12N2O2
